data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_183294_1,[C:1]1([C:2]([H:12])([H:13])[H:14])([O:5][H:8])[C:3]([N:4]([H:10])[H:11])([O:6][H:9])[O:7]1>>[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([N:4]([H:10])[H:11])=[O:7])([O:5][H:8])[O:6][H:9],27.960144999996857
MR_29281_1,[C:1]1([N:5]([H:9])[H:10])([H:8])[N:4]([H:7])[C:3]([H:13])([H:14])[C:2]([H:11])([H:12])[O:6]1>>[C:1](\[N:4]([C:3]([C:2]([O:6][H:9])([H:11])[H:12])([H:13])[H:14])[H:7])(=[N:5]\[H:10])[H:8],42.51375249999185
MR_598512_1,[C:1](=[C:2]([N:5]([H:14])[H:15])/[C:7](=[C:6](/[O:8][H:9])[H:16])[H:17])([N:3]([H:11])[H:12])[N:4]([H:10])[H:13]>>[C:1]1([N:3]([H:11])[H:12])([N:4]([H:10])[H:13])[C:2]([N:5]([H:14])[H:15])=[C:7]([H:17])[C@:6]1([O:8][H:9])[H:16],35.99340000001064
MR_632120_0,[C:1]([C:2]([H:13])([H:14])[H:15])([N:5]([C:3]([H:16])([H:17])[H:18])[H:9])(/[C:6]([C:4]([H:19])([H:20])[H:21])=[N:8]\[H:12])[N:7]([H:10])[H:11]>>[C:1]1([C:2]([H:13])([H:14])[H:15])([N:7]([H:10])[H:11])[C:6]([C:4]([H:19])([H:20])[H:21])([N:5]([C:3]([H:16])([H:17])[H:18])[H:9])[N:8]1[H:12],59.2140375000244
MR_59078_0,[C:1]([C:2]([C:4]([H:16])([H:17])[H:18])(/[C:5](=[N:7]/[H:11])[H:12])[H:10])([C:3]([H:13])([H:14])[H:15])([O:6][H:8])[H:9]>>[C:1]([C:2]([C:4]([H:16])([H:17])[H:18])([C:5]([N:7]([H:8])[H:11])([H:9])[H:12])[H:10])([C:3]([H:13])([H:14])[H:15])=[O:6],45.75165250002087
MR_382067_0,[C:1]([C:2](/[N:9]=[C:6](/[C:5]([H:21])([H:22])[H:23])[O:8][H:10])([H:13])[H:14])([C:3]([H:15])([H:16])[H:17])([C:4]([H:18])([H:19])[H:20])[N:7]([H:11])[H:12]>>[C:1]1([C:3]([H:15])([H:16])[H:17])([C:4]([H:18])([H:19])[H:20])[C:2]([H:13])([H:14])[N:9]1[C@:6]([C:5]([H:21])([H:22])[H:23])([N:7]([H:11])[H:12])[O:8][H:10],70.63139999998342
MR_478016_0,[C:1]([C:2]([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])[C:7]1([C:6]([H:21])([H:22])[H:23])[O:8][N:10]1[H:11])([C:3]([H:12])([H:13])[H:14])=[O:9]>>[C:1]1([C:3]([H:12])([H:13])[H:14])([O:9][H:11])[C:2]([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])[C:7]([C:6]([H:21])([H:22])[H:23])=[N:10][O:8]1,47.89958499998392
MR_362398_0,[C:1]([C:2]([O:5][C:3]([O:7][H:10])=[O:8])([H:11])[H:12])(=[O:4])[O:6][H:9]>>[C:1]1([O:6][H:9])([O:7][H:10])[C:2]([H:11])([H:12])[O:5][C:3](=[O:8])[O:4]1,67.17450250000795
MR_565407_1,[C:1](=[C:5](/[C:3]([H:18])([H:19])[H:20])[C:7]([C:4]([C:2]([H:15])([H:16])[H:17])=[O:9])([N:6]([H:12])[H:13])[H:14])(\[O:8][H:10])[H:11]>>[C:1]([C:4]([C:2]([H:15])([H:16])[H:17])=[O:9])(/[C:5]([C:3]([H:18])([H:19])[H:20])=[C:7](/[N:6]([H:12])[H:13])[H:14])([O:8][H:10])[H:11],59.18078000000136
MR_121834_0,[C:1]1([H:9])([H:10])[C:3](=[O:7])[O:5][C:2]([O:6][H:8])=[C:4]1[H:11]>>[C:1]1([H:9])([H:10])[C:3](=[O:7])[C:4]1([C:2](=[O:5])[O:6][H:8])[H:11],34.41523749996449
MR_603336_0,[C:1]([C:2]([O:6][O:7][H:9])=[O:8])(/[C:5](=[C:4](\[N:3]([H:10])[H:11])[H:14])[H:15])([H:12])[H:13]>>[C:1]1([H:12])([H:13])[C:2](=[O:8])[C:5]1([C:4]([N:3]([H:10])[H:11])([O:6][O:7][H:9])[H:14])[H:15],70.4299724999926
MR_299814_0,[C:1]([C:4](=[C:5]([C:2]([H:13])([H:14])[H:15])[C:3]([H:16])([H:17])[H:18])[N:6]([H:9])[H:10])([O:7][H:8])([H:11])[H:12]>>[C:1](=[C:4](/[C:5]([C:2]([H:13])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])[H:12])[N:6]([H:9])[H:10])(\[O:7][H:8])[H:11],68.45146500002983
MR_589442_0,[C:1]([N:2]([N:4]([H:11])[H:12])[H:10])(/[C:6](=[C:5](\[C:3]([O:7][H:9])=[O:8])[H:15])[H:16])([H:13])[H:14]>>[C:1]1([H:13])([H:14])[C:5]([C:3]([O:7][H:9])=[O:8])([H:15])[C:6]1([N:2]([N:4]([H:11])[H:12])[H:10])[H:16],72.58166999998181
MR_55638_1,[C:1]([C:4]([O:7][N:3](/[C:5](=[C:6](\[C:2]([H:15])([H:16])[H:17])[H:11])[H:10])[H:9])=[O:8])([H:12])([H:13])[H:14]>>[C:1]([C:4]([C@@:6]([C:2]([H:15])([H:16])[H:17])([C@@:5]1([H:10])[N:3]([H:9])[O:7]1)[H:11])=[O:8])([H:12])([H:13])[H:14],66.59845750003555
MR_636373_1,[C:1]1([H:13])([H:14])[N:2]([N:5]([H:10])[H:11])[C:6](/[C:7](=[N:3]/[H:9])[H:16])([H:15])/[C:4]1=[N:8]/[H:12]>>[C:1]1([H:13])([H:14])[N:2]([N:5]([H:10])[H:11])[C:6]([H:15])=[C:7]([H:16])[N:3]([H:9])/[C:4]1=[N:8]/[H:12],62.91691500002088
MR_114880_0,[C:1]([N:2]([H:8])[H:9])(/[C:4](=[C:3](\[O:5][H:7])[H:11])[H:12])=[N:6]/[H:10]>>[C:1](\[N:2]([H:8])[H:9])([C:4]([C:3](=[O:5])[H:11])([H:7])[H:12])=[N:6]/[H:10],61.50629500001543
MR_264402_1,[C:1](/[C:5]([C:4]([N:3]([N:6]([H:11])[H:12])[O:9][H:10])=[C:8]([H:17])[H:18])=[C:7](/[C:2]([H:19])([H:20])[H:21])[H:13])([H:14])([H:15])[H:16]>>[C:1](/[C:5]([C:4]([N:3]=[O:9])([N:6]([H:11])[H:12])[C:8]([H:10])([H:17])[H:18])=[C:7](/[C:2]([H:19])([H:20])[H:21])[H:13])([H:14])([H:15])[H:16],60.0875174999949
MR_350067_2,[C:1](/[N:6]=[N:5]\[N:2]([C:3]([N:4]([H:9])[H:10])=[O:7])[H:8])([H:11])([H:12])[H:13]>>[C:1]([N:6]([C:3]([N:4]([H:9])[H:10])=[O:7])/[N:5]=[N:2]/[H:8])([H:11])([H:12])[H:13],39.33170000000018
MR_584364_1,[C:1]([O:4][H:8])([O:5][H:7])(/[N:6]=[C:3](\[N:2]([H:10])[H:11])[H:12])[H:9]>>[C:1](\[O:5][H:7])(=[N:6]/[C:3]([N:2]([H:10])[H:11])([O:4][H:8])[H:12])[H:9],55.3806399999651
